US07012075B2
To a suspension of 4-bromophenylacetic acid (2.0 g, 9.3 mmol) and PyBOP (4.8 g, 9.3 mmol) in DMF (15 mL) was added dimethylamine (2 M solution in THF, 12 mL, 24 mmol). The solution was stirred overnight, then diluted with ether and washed with 1 M HCl, saturated aqueous NaHCO3 and brine to give 1.15 g 2-(4-bromophenyl)-N,N-dimethylacetamide.

reactant | 4-bromophenylacetic acid | 9.3 mmol, 2.0 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | PyBOP | 9.3 mmol, 4.8 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | dimethylamine | 24 mmol, 2 M, 12 mL | CNC | C2H7N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-(4-bromophenyl)-N,N-dimethylacetamide | 1.15 g | BrC1=CC=C(C=C1)CC(=O)N(C)C | C10H12BrNO
